US05334519
The suspension of the bacterial cells (corresponding to 5.92 mg of the dry cells) obtained in Example 8 was added to 4 ml of the reaction solution containing 10 mM of a potassium phosphate buffer (pH 8.0) and 0.5 M of 2,6-difluorobenzonitrile, and the reaction was conducted at 25° C. with adding 0.5 M of 2,6-difluorobenzonitrile to the reaction solution after 2,4,6 and 8 hours from the initiation of the reaction, respectively. After 22 hours from the initiation of the reaction, 2.5 M (393 g/lit.) of 2,6-difluorobenzamide was produced with a 100% conversion.

reactant | potassium phosphate | 10 mM, pH 8.0 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2,6-difluorobenzonitrile | 0.5 M | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | 2,6-difluorobenzonitrile | 0.5 M | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
product | 2,6-difluorobenzamide | 2.5 M | FC1=C(C(=O)N)C(=CC=C1)F | C7H5F2NO
